** sch_path: /home/wtf/projects/toy-sram/custom/xschem/local_eval.sch
**.subckt local_eval PRE_R_b RBL_L_b RBL_R_b RBL_O VDD GND
*.ipin PRE_R_b
*.ipin RBL_L_b
*.ipin RBL_R_b
*.opin RBL_O
*.iopin VDD
*.iopin GND
XM2 RBL_R_b PRE_R_b VDD GND sky130_fd_pr__pfet_01v8 L=0.15 W=0.21 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 RBL_O RBL_R_b RBL_L_b VCC VSS VCC VSS NAND2
**.ends
.end
